US07632829B2
1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-4-(5-iodo-pentyl)-[1,4]diazepan-5-one
In analogy to the procedure described in example 6D, 4-(5-chloro-pentyl)-1-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-[1,4]diazepan-5-one and sodium iodide were stirred at 90° C. for 20 h to give the title compound as orange oil. MS: 509.2 (MH+, 2Cl).

reactant | 4-(5-chloro-pentyl)-1-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-[1,4]diazepan-5-one | ClCCCCCN1CCN(CCC1=O)C(\C=C\C1=CC(=C(C=C1)Cl)Cl)=O | C19H23Cl3N2O2
reactant | sodium iodide | [I-].[Na+]
product | 1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-4-(5-iodo-pentyl)-[1,4]diazepan-5-one | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CCN(C(CC1)=O)CCCCCI | C19H23Cl2IN2O2
